US06884868B1
A mixture of ethyl 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoate (3.00 g) in ethanol (30 ml) was treated with 1N-sodium hydroxide aqueous solution (6.81 ml) then the mixture was refluxed for 24 hours, during which period tetrahydrofuran (20 ml) and 1N-sodium hydroxide aqueous solution (6.81 ml) was added. After cooling, water was added to the mixture, and the acidity of the mixture was adjusted to pH 1 with 1N-hydrochloric acid. The resulting precipitate was filtered, washed with water and dried under reduced pressure to give 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoic acid dihydrochloride (2.25 g) as an ocher solid.

reactant | ethyl 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoate | 3.00 g | COCCCCCCOC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C26H36N2O4
reactant | sodium hydroxide | 6.81 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 6.81 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoic acid dihydrochloride | 2.25 g | Cl.Cl.COCCCCCCOC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C24H32N2O4.2ClH/c1-29-18-4-2-3-5-19-30-23-12-10-22(11-13-23)26-16-14-25(15-17-26)21-8-6-20(7-9-21)24(27)28;;/h6-13H,2-5,14-19H2,1H3,(H,27,28);2*1H
